US03994791
Preparation of dibenzyl selenide
Into a 250 milliliter 3 necked round bottom flask equipped with an addition funnel and a magnetic stirring bar is placed 4.6 grams (0.058 moles) of selenium powder and 50 milliliters of deoxygenated distilled water. The flask is purged of air with nitrogen and a solution comprising 4.6 grams (0.122 moles) sodium borohydride in 50 milliliters of deoxygenated distilled water slowly added to the solution in the flask from the addition funnel. Upon contacting of these two solutions, vigorous hydrogen evolution occurs and the selenium powder is consumed thereby yielding a solution containing sodium hydrogen selenide. About 14.6 grams (0.166 moles) benzylchloride is now introduced into the flask and the resulting mixture stirred at room temperature for 18 hours. The solid product thus produced is collected by filtration washed with water and recrystallized twice from pentane. Yield 11.81 grams of rod like crystals, (m.p. 45° to 46° C).

reactant | selenium | 0.058 moles, 4.6 grams | [Se] | Se
reactant | sodium borohydride | 0.122 moles, 4.6 grams | [BH4-].[Na+]
reactant | sodium hydrogen selenide | [SeH2].[Na]
reactant | benzylchloride | 0.166 moles, 14.6 grams | C(C1=CC=CC=C1)Cl | C7H7Cl
product | dibenzyl selenide | C(C1=CC=CC=C1)[Se]CC1=CC=CC=C1 | C14H14Se
